US07153855B2
To a suspension of 2-(3-aminophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine (150 mg, 0.33 mmol) in dimethylformamide (10 mL) was added triethylamine (51 δL, 0.36 mmol). The reaction mixture was cooled to 0° C. and flushed with nitrogen, then acetyl chloride (26 μL, 0.36 mmol) was added dropwise. The reaction mixture was stirred at room temperature overnight. Water was added and the resulting mixture was extracted with ethyl acetate. The ethyl acetate phase was dried (magnesium sulfate), filtered and concentrated to a solid. This solid was purified by flash chromatography (95:5 chloroform:methanol) to give N-(3-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)acetamide (151 mg, 92%) as a tan solid. 1H NMR (CDCl3): δ 8.19 (s, 1H), 7.95 (d, 1H), 7.82 (d, 1H), 7.75 (d, 1H), 7.63 (s, 1H), 7.36–7.25 (m, 3H), 6.28 (d, 1H), 6.00 (m, 2H), 5.17 (d, 1H), 4.32 (m, 1H), 3.96 (m, 1H), 2.11 (s, 3H), 2.11–2.02 (m, 4H), 1.76–1.48 (m, 12H); MS m/z 496 (M+1).

reactant | 2-(3-aminophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine | 0.33 mmol, 150 mg | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2NC2CCCC2)=C1C1=NC(=NC=C1)NC1CCCC1 | C27H31N7
reactant | triethylamine | 0.36 mmol | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.36 mmol, 26 μL | C(C)(=O)Cl | C2H3ClO
reactant | Water | O | H2O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-(3-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)acetamide | 151 mg, 92% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C=2C=C(C=CC2)NC(C)=O | C29H33N7O
